US08471005B2
N-tert-Butyl-3-[2-(4-piperidin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide
4-{4-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (50.0 mg, 0.0827 mmol) was treated with trifluoroacetic acid (191 uL, 2.48 mmol) in methylene chloride (3.00 mL). The reaction was diluted with DCM (25 mL) and washed with saturated sodium bicarbonate (25 mL). The aqueous layer was extracted with DCM (25 mL) three times and the combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure to obtain the title compound as an orange foam (40 mg, 96%). LCMS (m/e) 505 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.79 (s, 1H), 8.73 (s, 1H), 8.29 (d, 1H, J=7.8 Hz), 7.87 (d, 1H, J=7.8 Hz), 7.62-7.51 (m, 3H), 7.28 (d, 2H, J=8.3 Hz), 7.07 (d, 1H, J=4.8 Hz), 6.92 (bs, 1H), 6.84 (d, 1H, J=4.8 Hz), 4.77-4.57 (m, 1H), 3.01-3.20 (m, 2H), 2.87-2.73 (m, 2H), 2.72-2.59 (m, 1H), 1.94-1.82 (m, 2H), 1.79-1.63 (m, 2H), 1.17 (s, 9H).

reactant | 4-{4-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.0827 mmol, 50.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(NC(C)(C)C)(=O)=O | C32H40N6O4S
reactant | trifluoroacetic acid | 2.48 mmol, 191 uL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 3.00 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | N-tert-Butyl-3-[2-(4-piperidin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide | 40 mg, 96% | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCNCC2 | C27H32N6O2S
